US07074800B1
A solution of 4-bromo-5-methoxyindole (540 mg, 2.4 mmol) in dichloromethane (12 ml) was cooled to −40° C. under an atmosphere of nitrogen. Boron tribromide (4.8 ml of a 1M solution in dichloromethane, 4.8 mmol) was added dropwise then the mixture warmed to ambient temperature and stirred for 1 hour. The mixture was diluted with dichloromethane (5 ml) and washed with 2M aqueous hydrochloric acid (3 ml). The organic layer was separated, dried (MgSO4) and evaporated to give a dark oil. This was purified by silica column chromatography eluting with dichloromethane/ethyl acetate (8/2) to give 4-bromo-5-hydroxyindole (295 mg, 55%).

reactant | 4-bromo-5-methoxyindole | 2.4 mmol, 540 mg | BrC1=C2C=CNC2=CC=C1OC | C9H8BrNO
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-bromo-5-hydroxyindole | 295 mg, 55% | BrC1=C2C=CNC2=CC=C1O | C8H6BrNO
